US08975406B2
Step (iii): cyclopropanecarboxylic acid (4-bromo-3-phenyl-pyrazolo[1,5-a]pyridin-2-yl)-amide
4-Bromo-3-phenyl-pyrazolo[1,5-a]pyridin-2-ylamine (0.295 g 1 eq) was dissolved in DCM (3 mL) at 5° C. and Et3N (356 μL) was added followed by the cyclopropane carbonyl chloride (234 μL). The reaction mixture was then allowed to warm to room temperature. The solvent was removed in vacuo the residue was treated with 7 M methanolic ammonia solution (5 mL) and stirred at room temp for 1 h to hydrolyse any bis-acylated product. The solvent was removed in vacuo and the residue was re-dissolved in DCM and washed with water and brine. The organics were passed through a hydrophobic frit and concentrated in vacuo. Purification by preparative HPLC

reactant | 4-Bromo-3-phenyl-pyrazolo[1,5-a]pyridin-2-ylamine | 0.295 g, 1 eq | BrC=1C=2N(C=CC1)N=C(C2C2=CC=CC=C2)N | C13H10BrN3
reactant | Et3N | 356 μL | CCN(CC)CC | C6H15N
reactant | cyclopropane carbonyl chloride | 234 μL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | cyclopropanecarboxylic acid (4-bromo-3-phenyl-pyrazolo[1,5-a]pyridin-2-yl)-amide | BrC=1C=2N(C=CC1)N=C(C2C2=CC=CC=C2)NC(=O)C2CC2 | C17H14BrN3O
